US06716851B2
4-(5-Chloro-2-hydroxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 5-chloro-2-hydroxyaniline (42 mg, 0.290 mmol) similar to Example 117 and isolated as a tan solid (38 mg, 54%). 1H NMR (DMSO-d6): 10.44 (s, 1H), 9.74 (s, 1H), 9.42 (s, 1H), 8.75-8.74 (m, 1H), 8.58-8.54 (m, 1H), 8.29 (s, 1H), 7.48 (s, 1H), 7.61-7.57 (m, 1H), 7.08 (dd, J=2.1, 8.7 Hz, 1H), 6.96 (d, J=9.0 Hz, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 5-chloro-2-hydroxyaniline | 0.290 mmol, 42 mg | ClC=1C=CC(=C(N)C1)O | C6H6ClNO
product | 4-(5-Chloro-2-hydroxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | ClC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C1)O | C16H10ClF3N4O
